US05780505
3-Butoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione
Tetrahydrofuran (15 mL), 3,4-dibutoxy-3-cyclobutene-1,2-dione (2.26 g, 10 mmol) and 2-amino-3,3-dimethylbutane (1.01 g, 10 mmol) were stirred together for approximately 65 hours at room temperature. The waxy solid remaining after removal of solvent was dissolved in chloroform (15 mL) and chromatographed (flash, ethyl acetate/hexane) on silica. The appropriate fractions were freed of solvent to yield 2.41 g (95%) of cream-colored waxy solid: mp 90°-9° C.° (softens 85° C.).

reactant | 3,4-dibutoxy-3-cyclobutene-1,2-dione | 10 mmol, 2.26 g | C(CCC)OC=1C(C(C1OCCCC)=O)=O | C12H18O4
reactant | 2-amino-3,3-dimethylbutane | 10 mmol, 1.01 g | NC(C)C(C)(C)C | C6H15N
solvent | Tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-Butoxy-4-(1,2,2-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | C(CCC)OC=1C(C(C1NC(C(C)(C)C)C)=O)=O | C14H23NO3
